US04638078
(c) Preparation of o-Chlorocinnamonitrile
Into a 1-liter, three-necked flask equipped with a mechanical stirrer, reflux condenser and nitrogen inlet is placed 138.5 g (0.66 mole) of 2-(o-chlorobenzyl)cyanoacetic acid and 220 ml of dry N,N-dimethylformamide. The mixture is stirred and slowly heated under nitrogen to reflux and held there for 6 hours. The resulting yellow mixture is allowed to cool under nitrogen overnight at room temperature. A precipitate (approximately 0.5 g) that forms is filtered off and the filtrate is poured into 1 liter of water. The organic layer is taken up in three 330-ml portions of ethyl ether/hexane (1:1 v/v), and the solutions are combined and washed once with 150 ml of water. The ethyl ether/hexane solution is dried over anhydrous magnesium sulfate, filtered and evaporated on a rotary evaporator. The residual liquid is distilled under reduced pressure through an insulated 12-inch Vigreux column with the product being collected at 82° C.-85° C./0.3 mm Hg as a colorless liquid identified by infrared, 'H and 13C nuclear magnetic resonance. The yield is 94.7 percent.

reactant | 2-(o-chlorobenzyl)cyanoacetic acid | 0.66 mole, 138.5 g | ClC1=C(CC(C(=O)O)C#N)C=CC=C1 | C10H8ClNO2
solvent | N,N-dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | o-Chlorocinnamonitrile | yield is 94.7 percent | ClC1=C(C=CC#N)C=CC=C1 | C9H6ClN
